2110-09-12 06:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2110-9-11**] 02:00 PM
 INVASIVE VENTILATION - START [**2110-9-11**] 02:14 PM
 MULTI LUMEN - START [**2110-9-11**] 08:00 PM
   per neuro: "His CT showed hypodensity in basal ganglia per report, but
   also
   paucity of sulcal structure, suspicious for cerebral edema.
   The patient was connected to the EEG at 4:30 pm and since then
   the brain activity was markedly suppressed most of the time, with
   only occasional bursts of generalized slowing seen every [**10-7**]
   seconds. There was no epileptic activity seen.
   We will reconsult on the patient tomorrow. The most risky period
   in terms of occurrence of seizures is the warming up one. We will
   follow the EEG changes in that period and advise on eventual AED
   treatment."
   Tried to get pCo2 35-40
   Allergies:
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2110-9-12**] 04:08 AM
   Infusions:
   Fentanyl (Concentrate) - 150 mcg/hour
   Propofol - 10 mcg/Kg/min
   Cisatracurium - 0.06 mg/Kg/hour
   Other ICU medications:
   Fentanyl - [**2110-9-11**] 02:16 PM
   Midazolam (Versed) - [**2110-9-11**] 02:16 PM
   Heparin Sodium (Prophylaxis) - [**2110-9-11**] 04:00 PM
   Famotidine (Pepcid) - [**2110-9-11**] 09:11 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-9-12**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.7
C (96.3
   Tcurrent: 35
C (95
   HR: 67 (66 - 113) bpm
   BP: 112/77(90) {82/60(68) - 143/92(111)} mmHg
   RR: 0 (0 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
    CVP: 8 (8 - 10)mmHg
   Total In:
                                                                  4,935 mL
                                                                  1,451 mL
   PO:
   TF:
   IVF:
                                                                  4,935 mL
                                                                  1,451 mL
   Blood products:
   Total out:
                                                                    915 mL
                                                                    295 mL
   Urine:
                                                                    915 mL
                                                                    295 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,020 mL
                                                                  1,156 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 31 cmH2O
   Plateau: 25 cmH2O
   Compliance: 32.4 cmH2O/mL
   SpO2: 100%
   ABG: 7.39/25/87.[**Numeric Identifier 181**]/16/-7
   Ve: 11.1 L/min
   PaO2 / FiO2: 176
   Physical Examination
   gen: intubated, sedated, paralyzed, cooled
   cv: RRR
   resp: course breath sounds L>R
   ext: no edema
   Labs / Radiology
   119 K/uL
   14.0 g/dL
   150 mg/dL
   2.5 mg/dL
   16 mEq/L
   4.5 mEq/L
   32 mg/dL
   108 mEq/L
   140 mEq/L
   41.6 %
   6.7 K/uL
        [image002.jpg]
                             [**2110-9-11**]  01:08 PM
                             [**2110-9-11**]  01:10 PM
                             [**2110-9-11**]  03:29 PM
                             [**2110-9-11**]  06:15 PM
                             [**2110-9-11**]  08:20 PM
                             [**2110-9-11**]  08:35 PM
                             [**2110-9-11**]  11:18 PM
                             [**2110-9-12**]  03:21 AM
   WBC
   12.3
   6.7
   Hct
   45
   41.4
   41.6
   Plt
   171
   119
   Cr
   2.3
   2.5
   TropT
   0.11
   0.17
   0.16
   TCO2
   17
   20
   18
   18
   16
   Glucose
   151
   154
   150
   Other labs: PT / PTT / INR:20.9/36.7/1.9, CK / CKMB /
   Troponin-T:[**Numeric Identifier 10288**]/403/0.16, ALT / AST:5920/4335, Alk Phos / T
   Bili:77/0.6, Amylase / Lipase:/43, Differential-Neuts:89.0 %, Band:1.0
   %, Lymph:5.0 %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:5.9 mmol/L,
   Albumin:3.4 g/dL, LDH:4542 IU/L, Ca++:7.7 mg/dL, Mg++:1.7 mg/dL,
   PO4:4.5 mg/dL
   Imaging: HEAD CT:
   IMPRESSION:
   1. Multiple hypodensities in the basal ganglia and internal capsules
   bilaterally. Findings are worrsome for acute ischemia and infarction of
   these
   regions, particularly given the history of cardiac arrest and IV drug
   use,
   which may have compromised blood flow to the perforating vessels
   supplying
   these regions. A vasculitis resulting iin ischemia is not excluded.
   Recommend
   MRI/MRA of the brain for further evaluation.
   2. No acute intracranial hemorrhage.
   Microbiology: blood cx pending
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 HYPOTENSION (NOT SHOCK)
 CARDIAC ARREST
   This is a  23 year old Male with h.o. heroin and benzo abuse/overdose
   p/w PEA arrest after being found down likely [**1-20**] heroin overdose.
   .
   #. s/p cardiac arrest: Unclear as to the exact time pt was in PEA
   arrest. Per peripheral sources pt had witness arrest. Per [**Name (NI) 73**] pt was
   coded for 20-30 minutes receiving 3 rounds of epi, atropine. Pt
   currently paralyzed with bolus of Vecuronium, started on Fentanyl and
   Midazolam for sedation. Now on cooling protocol. Cardiac arrest team,
   Cardiology, Neurology aware of patient.
   - will cool patient for a goal of 32 degrees for next 24 hours (end 4p)
   - sedation c fent and propofol try to wean
   -dc cisatracuronium
   - will continue on 48 hours continuous EEG per cooling protocol
   .
   ##. Transient Hypotension: Pt noted to be hypotensive in the ED and
   started briefly on Levophed, likely [**1-20**] sedation medication. Pt
   currently able to keep MAPs >65. [**Month (only) 51**] again be hypotensive when he is
   cooled, will continue to monitor and bolus with LRs for a goal MAP >65.
   - monitor BPs using A-line
   - goal MAP >65
   - will bolus with NS to maintain pressures x1L cvp goal 12
   .
   ##. Ventilated/cerebral edema: Pt currently ventilated as he is on
   cooling protocol and sedated heavily. First ABG obtained when pt was
   over breathing ventilator.
   -Target pH 7.45 to cause cerebral vasocontstriction to combat cerebral
   edema.
   -consider hypertonic saline will d/w neurology
   -f/u neuro recs, greatly appreciate their advice
   .
   ##. ?Aspiration PNA: Pt noted to have course BS, CXR also shows b/l
   patchy infiltrates. Suspect aspiration PNA, will cover with broad
   spectrum abx with Unasyn.
   - continue on Unasyn
   - obtain blood cultures
   .
   ##. [**Last Name (un) **]: Unknown baseline but pt is young and has no history of renal
   disease, suspect this may ATN given the length of ischaemic down time.
   Pt also at risk for rhabdo given CK of ~20,000
   - Will continue to monitor urine output
   - goal >30 cc/hr, has been meeting or exceeding
   - trend Creatinine
   -continue NS at 250cc/hr to protect against rhabdo injury
   .
   ##. Shock Liver: Pt noted to have transaminitis as well as synthetic
   dysfunction, likely shock liver from length of ischaemia.
   - will continue to trend LFTs, coags
   - continue with supportive care
   .
   # RUE edema: likely from being down. could consider RUE us to r/o dvt.
   -trend
   .
   Nutrition: replete electrolytes, NPO
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2110-9-11**] 02:00 PM
   18 Gauge - [**2110-9-11**] 02:00 PM
   20 Gauge - [**2110-9-11**] 02:28 PM
   Multi Lumen - [**2110-9-11**] 08:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2110-09-13 07:02:00 Physician Resident Progress Note
Chief Complaint: 23 yom with s/p bezo and opiate overdose transferred
   from OSH after being found down in PEA arrest, coded x 20 minutes with
   drugs and shocks for episode of V. Fib,  now s/p cooling protocol.
   24 Hour Events:
   -CT head: multiple hypodensities in internal capsule and BG worrisome
   for acute ischemia and infarction
   -EEG: burst suppression background with intermittent spikes c/w seizure
   activity, patient being loaded with dilantin
   -Hypertonic 23% saline for cerebral edema with goal serum osmolality of
   330-340
   -Gradual rewarming phase initiated and completed to goal
   -Continued mild metabolic acidosis, given D5W with 3 amps HCO3
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2110-9-13**] 04:37 AM
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Vecuronium - [**2110-9-12**] 12:00 PM
   Famotidine (Pepcid) - [**2110-9-12**] 08:08 PM
   Heparin Sodium (Prophylaxis) - [**2110-9-12**] 10:07 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-9-13**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.8
C (100.1
   HR: 100 (64 - 103) bpm
   BP: 80/66(71) {67/53(64) - 144/90(104)} mmHg
   RR: 28 (0 - 44) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
    CVP: 9 (6 - 208)mmHg
   Total In:
                                                                  8,495 mL
                                                                  1,179 mL
   PO:
   TF:
   IVF:
                                                                  8,495 mL
                                                                  1,179 mL
   Blood products:
   Total out:
                                                                    980 mL
                                                                    225 mL
   Urine:
                                                                    800 mL
                                                                    225 mL
   NG:
                                                                    180 mL
   Stool:
   Drains:
   Balance:
                                                                  7,515 mL
                                                                    954 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 26 cmH2O
   Plateau: 20 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 100%
   ABG: 7.41/28/147/19/-4
   Ve: 15.3 L/min
   PaO2 / FiO2: 294
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   107 K/uL
   12.5 g/dL
   145 mg/dL
   3.5 mg/dL
   19 mEq/L
   4.8 mEq/L
   41 mg/dL
   113 mEq/L
   145 mEq/L
   35.9 %
   9.0 K/uL
        [image002.jpg]
                             [**2110-9-11**]  11:18 PM
                             [**2110-9-12**]  03:21 AM
                             [**2110-9-12**]  06:23 AM
                             [**2110-9-12**]  09:12 AM
                             [**2110-9-12**]  02:41 PM
                             [**2110-9-12**]  02:52 PM
                             [**2110-9-12**]  09:00 PM
                             [**2110-9-13**]  02:06 AM
                             [**2110-9-13**]  03:50 AM
                             [**2110-9-13**]  05:52 AM
   WBC
   6.7
   9.0
   Hct
   41.6
   35.9
   Plt
   119
   107
   Cr
   2.5
   2.8
   3.5
   TropT
   0.16
   0.12
   0.11
   TCO2
   16
   16
   19
   16
   16
   18
   18
   Glucose
   150
   103
   145
   Other labs: PT / PTT / INR:21.3/41.7/2.0, CK / CKMB /
   Troponin-T:9214/254/0.11, ALT / AST:3845/1397, Alk Phos / T
   Bili:67/1.3, Amylase / Lipase:/43, Differential-Neuts:89.0 %, Band:1.0
   %, Lymph:5.0 %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:4.1 mmol/L,
   Albumin:3.4 g/dL, LDH:1285 IU/L, Ca++:7.1 mg/dL, Mg++:1.8 mg/dL,
   PO4:4.7 mg/dL
   Assessment and Plan
   23 yom s/p cadiac arrest via heroin overdose.
   #. s/p cardiac arrest: patient is now s/p cooling protocol, CT head
   concerning for BG and IC ischemia and seizure activity demonstrated by
   EEG
   - gradually wean sedation for more thorough neurological evaluation
   - continue dilantin and keppra per neurology for ongoing seizure
   activity
   - consider MRI for more thorough evaluation of ischemic brain injury
   - continuous EEG monitoring x 48 hours, should finish this afternoon
   - consider decreasing PEEP and RR considering most recent blood gas
   ##. Cerebral edema: patient with diffuse cerebral edema demonstrated on
   CT with mild sulcal effacement but maintenance of GW junction
   - continue hypertonic saline protocol q 6 hours for goal serum osm of
   320-330
   - avoid free water loads
   - consult neurology concerning management of ICP
   ##. Possible Aspiration PNA: patient intially noted to have coarse BS
   with initial CXR demonstrating bilateral patchy infiltrates
   - continue Unasyn
   - f/u cultures and CXR
   ##. [**Last Name (un) **]: patient with unknown baseline but suspect ATN given prolonged
   ischemia and now elevated Cr in the setting of rhabdomylosis and
   myoglobin load.
   - continue to monitor urine output and trend Cr
 continuing to rise
   - continue isotonic fluids for renal protection against myoglobinuria
   - consult renal concerning renal protection from rhabdo in setting of
   cerebral edema and fluid limits
   ##. Shock Liver: patient initially presenting with transaminitis likely
   representing shock liver from prolonged ischemia
   - continue trend LFT's and coags
   # RUE edema: likely [**1-20**] prolonged down time, limb not tense with
   palpable pulses and WWP digits
   - consider RUEx US to r/o DVT
   .
   Nutrition: replete electrolytes, NPO
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2110-9-11**] 02:00 PM
   18 Gauge - [**2110-9-11**] 02:00 PM
   20 Gauge - [**2110-9-11**] 02:28 PM
   Multi Lumen - [**2110-9-11**] 08:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2110-9-11**] 02:00 PM
   18 Gauge - [**2110-9-11**] 02:00 PM
   20 Gauge - [**2110-9-11**] 02:28 PM
   Multi Lumen - [**2110-9-11**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2110-09-14 07:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2110-9-13**] 06:00 PM
 ULTRASOUND - At [**2110-9-13**] 06:40 PM
 SPUTUM CULTURE - At [**2110-9-13**] 10:50 PM
 ARTERIAL LINE - STOP [**2110-9-14**] 02:01 AM
   -renal recs: likely ATN c/b rhabdo- will spin urine sediment; hold off
   on repleting calcium; if cerebral edema can handle, consider some IVF
   to increase renal flow, but since CK decreasing and pt likely has ATN,
   not an absolute priority;  no urgent need for HD today; check urine
   lytes; hold all nephrotoxins; dose meds for creatinine clearance of 10-
   consider changing unasyn to Q24 dosing (done) and consider changing
   Keppra from 2grams [**Hospital1 7**] to 1gram Q24 (checked with neuro, they want it
   at 1.5grams Q24)
   -Dilantin level goal is 15-20 (11.7 this AM). Increased dose to 150mg
   TID and gave extra 100mg around noon. Checking level before PM dose as
   well.
   -Receiving hypertonic saline for increased ICP. Neuro said they would
   prefer repeat head imaging before starting mannitol. If we want to
   start mannitol, they will give us the dosages, but we will also have to
   consult neurosurg to place ICP monitor
   -Head MRI to evaluate for continued/worsening cerebral edema and also
   for prognostic implications
   -RUE swelling- called Plastics, who were not concerned for compartment
   syndrome given good pulses/cap refill. Final recs-->wrap with ACE,
   elevate arm, consider moving IV sites
   -ordered RUE U/S
   1. No evidence of deep venous thrombosis in the right upper extremity
   although the internal jugular vein on the right is not assessed due to
   overlying dressing.
   2. There is thrombosis of the right cephalic vein which is a
   superficial vein.
   3. Velocities in the left subclavian vein are noted to be higher than
   on the right, of uncertain significance. Variation is demonstrated in
   the venous waveforms of the right upper extremity; however, more
   central thrombosis is not completely excluded.
   -A line finicky--> replaced over wire
   -weaned sedation for better neuro exam
   -serum osms still not at goal with hypertonic saline
   -pt noted to be posturing; repeat CT showed increased cerebral and
   cerebellar edema. d/w neurosurg- no intervention and would not place a
   bolt b/c not a surgical candidate anyway. Called family.
   -as per renal, GPC
s in urine on spin
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2110-9-13**] 10:03 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2110-9-13**] 07:47 AM
   Heparin Sodium (Prophylaxis) - [**2110-9-13**] 04:06 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-9-14**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 38.1
C (100.6
   HR: 106 (97 - 107) bpm
   BP: 151/71(90) {118/49(64) - 160/92(109)} mmHg
   RR: 25 (25 - 28) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 71 Inch
    CVP: 9 (5 - 12)mmHg
   Total In:
                                                                  4,905 mL
                                                                    340 mL
   PO:
   TF:
                                                                    359 mL
                                                                    273 mL
   IVF:
                                                                  4,546 mL
                                                                     67 mL
   Blood products:
   Total out:
                                                                    650 mL
                                                                    350 mL
   Urine:
                                                                    650 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,255 mL
                                                                    -10 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 251 (251 - 251) mL
   RR (Set): 25
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 21 cmH2O
   Plateau: 15 cmH2O
   SpO2: 100%
   ABG: ///18/
   Ve: 15.5 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed, hyporeflexic, postures in UE, downgoing toes
   Labs / Radiology
   96 K/uL
   11.5 g/dL
   151 mg/dL
   5.5 mg/dL
   18 mEq/L
   4.9 mEq/L
   54 mg/dL
   117 mEq/L
   149 mEq/L
   34.9 %
   9.9 K/uL
        [image002.jpg]
                             [**2110-9-12**]  06:23 AM
                             [**2110-9-12**]  09:12 AM
                             [**2110-9-12**]  02:41 PM
                             [**2110-9-12**]  02:52 PM
                             [**2110-9-12**]  09:00 PM
                             [**2110-9-13**]  02:06 AM
                             [**2110-9-13**]  03:50 AM
                             [**2110-9-13**]  05:52 AM
                             [**2110-9-13**]  03:05 PM
                             [**2110-9-14**]  03:53 AM
   WBC
   9.0
   7.3
   9.9
   Hct
   35.9
   32.7
   34.9
   Plt
   107
   96
   96
   Cr
   2.8
   3.5
   4.5
   5.5
   TropT
   0.12
   0.11
   0.10
   TCO2
   16
   19
   16
   16
   18
   18
   Glucose
   103
   145
   109
   151
   Other labs: PT / PTT / INR:18.7/38.8/1.7, CK / CKMB /
   Troponin-T:5905/54/0.10, ALT / AST:3025/725, Alk Phos / T Bili:75/1.4,
   Amylase / Lipase:/43, Differential-Neuts:89.0 %, Band:1.0 %, Lymph:5.0
   %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:4.1 mmol/L, Albumin:3.4 g/dL,
   LDH:912 IU/L, Ca++:7.5 mg/dL, Mg++:2.5 mg/dL, PO4:5.9 mg/dL
   Fluid analysis / Other labs: Phenytoin: 12.9
   Osm 320
   Imaging: CT head -Diffusely increased cerebral edema since [**9-11**] exam,
   with further sulcal effacement and slight decrease in size of
   ventricles. No evidence of
   herniation at this time. No ICH .
   MRI head - Extensive abnormalities, with restricted diffusion in the
   caudate and basal
   ganglia as seen on prior CT; also restricted diffusion in the parieto-
   occipital lobes bilaterally; c/w infarcts. Parieto-occipital
   abnormalities
   likely more acute, given relatively little FLAIR signal in these areas.
   Increased FLAIR signal in the cerebellum bilaterally likely related to
   edema. Difficult to compare degree of edema to the prior CT; refer to
   CT obtained at 2100 hours.
   Microbiology: [**2110-9-13**]  SPUTUM GRAM STAIN-1+GNR; RESPIRATORY
   CULTURE-PRELIMINARY INPATIENT
   [**2110-9-11**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2110-9-11**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2110-9-11**]  MRSA SCREEN MRSA SCREEN-PENDING INPATIENT
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RHABDOMYOLYSIS
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 HYPEROSMOLALITY
 OLIGURIA/ANURIA
 ANOXIC BRAIN DAMAGE (ANOXIC ENCEPHALOPATHY, HYPOXIC ISCHEMIC)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 HYPOTENSION (NOT SHOCK)
 CARDIAC ARREST
   23 yom s/p cadiac arrest via heroin overdose.
   #. S/p cardiac arrest:
   -patient is now s/p cooling protocol
   -CE trending down
   #. Cerebral Edema: CT head concerning for BG and IC ischemia and
   seizure activity demonstrated by EEG. New posturing yesterday.
   Increased edema on imaging.
   - gradually wean sedation for more thorough neurological evaluation
   - continue dilantin and keppra per neurology for ongoing seizure
   activity; both redosed as per renal/neuro recs
   -hypertonic saline to keep osm 320. Not candidate for ICP monitor as
   per neurosurg. Neuro unable to give prognosis, family aware that
   prognosis is likely grave. Will have to discuss prognosis with neuro
   attending today and have family meeting to dictate further goals of
   care.
   -tylenol for fevers
   ##. Possible Aspiration PNA: patient intially noted to have coarse BS
   with initial CXR demonstrating bilateral patchy infiltrates; febrile
   last night to 100.8
   - continue Unasyn
   - f/u cultures and CXR
    ## ??UTI- Patient with GPC
s when urine spun by renal yesterday.
   Patient still febrile. Pancultured today.
   -will add vancomycin for ?enterococcus.
   -tylenol for fevers (despite transaminitis) in setting of cerebral
   edema
   ##. [**Last Name (un) **]: patient with unknown baseline but suspect ATN given prolonged
   ischemia and now elevated Cr in the setting of rhabdomylosis and
   myoglobin load.
   - continue to monitor urine output and trend Cr
 continuing to rise
   - As per renal, likely ATN c/b rhabdo- will spin urine sediment; hold
   off on repleting calcium; if cerebral edema can handle, consider some
   IVF to increase renal flow, but since CK decreasing and pt likely has
   ATN, not an absolute priority;  no urgent need for HD as of yet
   -hold all nephrotoxins; dose meds for creatinine clearance of 10- have
   to check daily if need to redose unasyn and keppra; dose vanco
   appropriately
   ##. Shock Liver: patient initially presenting with transaminitis likely
   representing shock liver from prolonged ischemia
   - continue trend LFT's and coags (trending down)
   # RUE edema: likely [**1-20**] prolonged down time, no evidence of compartment
   syndrome on exam
    -seen by plastics, who did not think there was concern for CS and did
   not do compartment pressures
   - RUE u/s showed no DVT, only superficial
   -elevate arm, ACE bandages
   .
   Nutrition: replete electrolytes, tube feeds
   Lines: lost Aline, 2PIV
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2110-9-14**] 03:01 AM 50 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2110-9-11**] 02:28 PM
   Multi Lumen - [**2110-9-11**] 08:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments: will need to have family mtg after d/w neuro
   what prognosis is
   Code status: Full code
   Disposition: